US09340537B2
Stage 78.1 trans-4-Methoxypyrrolidin-3-amine dihydrochloride
A mixture of (trans)-tert-butyl 3-amino-4-methoxypyrrolidine-1-carboxylate hydrochloride (0.5 g, 1.939 mmol) and HCl in EtOH (15.51 mL, 19.39 mmol) was stirred at RT for 24 h. The solvent was evaporated off under reduced pressure to give the title compound.

reactant | (trans)-tert-butyl 3-amino-4-methoxypyrrolidine-1-carboxylate hydrochloride | 1.939 mmol, 0.5 g | Cl.N[C@@H]1CN(C[C@H]1OC)C(=O)OC(C)(C)C
reactant | HCl | Cl | ClH
reactant | EtOH | 19.39 mmol, 15.51 mL | CCO | C2H6O
product | trans-4-Methoxypyrrolidin-3-amine dihydrochloride | Cl.Cl.CO[C@H]1[C@@H](CNC1)N | InChI=1S/C5H12N2O.2ClH/c1-8-5-3-7-2-4(5)6;;/h4-5,7H,2-3,6H2,1H3;2*1H/t4-,5-;;/m1../s1
